US05091384
Preparation of 1-cyclopropyl-7-[3,7-diazabicyclo[3.3.0] oct-1(5)-en-3-yl]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (KR-10679)
The suspension of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (14.7 g), 3,7-diazabicyclo[3.3.0] oct-1(5)-ene dihydrobromide (14.1 g) and diisopropyl-ethylamine (45 ml) in acetonitrile (1 l) was refluxed for 5 hours. The reaction mixture was cooled to room temperature and the produced precipitate was filtered and then washed with acetonitrile (200 ml) and water (200 ml) successively. Vacuum drying gave the title compound (16.6 g, yield 85%).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 14.7 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3,7-diazabicyclo[3.3.0] oct-1(5)-ene dihydrobromide | 14.1 g | Br.Br.C1=2CNCC2CNC1
reactant | diisopropyl-ethylamine | 45 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
product | 1-cyclopropyl-7-[3,7-diazabicyclo[3.3.0] oct-1(5)-en-3-yl]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 16.6 g, yield 85% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CNCC2C1)F)=O)C(=O)O | C19H17F2N3O3
